US07799775B2
In 10 ml of 4N hydrochloric acid-dioxane solution, 150 mg of 1-(2-benzo[1,3]dioxol-5-ylmethyl-1-tert-butoxycarbonylpiperazin-4-yl)-7-methoxyisoquinoline as synthesized in the above step was added and stirred for 18 hours. The solution was neutralized with saturated aqueous sodium hydrogencarbonate solution, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (methanol:chloroform=1:9) to provide 69 mg (58%) of 1-(3-benzo[1,3]dioxol-5-ylmethylpiperazin-1-yl)-7-methoxyisoquinoline.

reactant | 1-(2-benzo[1,3]dioxol-5-ylmethyl-1-tert-butoxycarbonylpiperazin-4-yl)-7-methoxyisoquinoline | 150 mg | O1COC2=C1C=CC(=C2)CC2N(CCN(C2)C2=NC=CC1=CC=C(C=C21)OC)C(=O)OC(C)(C)C | C27H31N3O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(3-benzo[1,3]dioxol-5-ylmethylpiperazin-1-yl)-7-methoxyisoquinoline | 69 mg, 58% | O1COC2=C1C=CC(=C2)CC2CN(CCN2)C2=NC=CC1=CC=C(C=C21)OC | C22H23N3O3
